US05917040
2-Fluoro-9-trimethylsilyladenine (IIa)
A stirred suspension of 2-fluoroadenine (5.0 g, 0.033 mol) prepared by the process of Eaton et al, J. Organic Chem 34 747 (1969) and powdered ammonium sulfate (0.5 g) in hexamethyldisilazane (HMDS, 500 mL) was heated to reflux. The reaction mixture was concentrated by distillation to a smaller volume (300 mL) and was then diluted with additional HMDS (200 mL). The mixture was refluxed overnight and was then concentrated by distillation at atmospheric pressure to a smaller volume (150 mL). Residual HMDS was removed by distillation in vacuo (aspirator) followed by drying at room temperature/0.05 mmHg to give 7.8 g (ca. 100%) of the title intermediate IIa as a crystalline solid.

reactant | 2-fluoroadenine | 0.033 mol, 5.0 g | FC1=NC(=C2NC=NC2=N1)N | C5H4FN5
reactant | ammonium sulfate | 0.5 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | hexamethyldisilazane | 500 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 2-Fluoro-9-trimethylsilyladenine | 7.8 g, ca. 100% | FC1=NC(=C2N=CN(C2=N1)[Si](C)(C)C)N | C8H12FN5Si
